US05162318
A mixed solution of 4-chloro-3-nitrotoluene (1.30 g) and N,N-dimethylethylenediamine (1.34 g) in 1-propanol (20 ml) was refluxed for 24 hours and the solvent was distilled off under reduced pressure. The residue was dissolved in ethyl acetate and the solution was successively washed with water (×2) and saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: chloroform:methanol=30:1) to give 0.19 g of N-(4-methyl-2-nitrophenyl)-N',N'-dimethylethylenediamine.

reactant | 4-chloro-3-nitrotoluene | 1.30 g | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | N,N-dimethylethylenediamine | 1.34 g | CN(CCN)C | C4H12N2
solvent | 1-propanol | 20 ml | C(CC)O | C3H8O
product | N-(4-methyl-2-nitrophenyl)-N',N'-dimethylethylenediamine | 0.19 g | CC1=CC(=C(C=C1)NCCN(C)C)[N+](=O)[O-] | C11H17N3O2
